US07501518B2
A mixture of (2′R,6′S)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (0.267 g, 1.00 mmol), 4-bromomethyl-2-fluoro-benzonitrile (0.321 g, 0.1.50 mmol), DIPEA (0.259 g, 2.00 mmol) and KI (0.017 g, 0.10 mmol) in dry CH3CN (10 mL) was stirred at 60° C. for 16 h. After that period of time the CH3CN was removed by evaporation under vacuum, and saturated aqueous NaHCO3 (20 mL) was added. The aqueous mixture was extracted with CH2Cl2 (3×30 mL, and the extract was dried over Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified on a silica gel column (1000:30:1, CH2Cl2/CH3OH/NH4OH), affording 4-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-2-fluoro-benzonitrile as a white foam (0.400 g, 100%). 1H NMR (CDCl3) δ 1.65-1.80 (m, 3H), 2.09-2.14 (m, 1H), 2.20-2.38 (m, 2H), 2.44 (s, 6H), 3.58 (s, 2H), 4.16 (s, 1H), 4.20 (s, 1H), 6.37-6.43 (m, 2H), 6.93-7.03 (m, 3H), 7.23 (d, 2H, J=7.5 Hz), 8.35 (dd, 2H, J=0.9, 4.5 Hz).

reactant | (2′R,6′S)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 1.00 mmol, 0.267 g | CC=1C(=NC=CC1)[C@@H]1N[C@@H](CCC1)C1=NC=CC=C1C | C17H21N3
reactant | 4-bromomethyl-2-fluoro-benzonitrile | 0.321 g | BrCC1=CC(=C(C#N)C=C1)F | C8H5BrFN
reactant | DIPEA | 2.00 mmol, 0.259 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-2-fluoro-benzonitrile | 0.400 g, 100% | CC=1C(=NC=CC1)[C@@H]1N([C@@H](CCC1)C1=NC=CC=C1C)CC1=CC(=C(C#N)C=C1)F | C25H25FN4
